Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
colonoscopy

 
History of Present Illness:
Mr ___ is a ___ history of HTN, HLD, recent weight loss and 
occult blood positive stool here with 2 days of BRBPR and LLQ 
pain.
 
Past Medical History:
HTN
HLD
BPH
 
Social History:
___
Family History:
CAD/PVD in mother at age ___ and father at age ___ 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
ADMISSION PHYSICAL EXAM:  
VS:  97.9 PO 130 / 87 66 16 96 RA 
GENERAL: pleasant ___ gentleman in NAD  
HEENT: AT/NC, anicteric sclera, MMM  
NECK: supple, no LAD  
CV: RRR, S1/S2, no murmurs, gallops, or rubs  
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles  
GI: abdomen soft, nondistended, mild suprapubic TTP otherwise
nontender, no rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: no cyanosis, clubbing, or edema  
PULSES: 2+ radial pulses bilaterally  
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric  
DERM: warm and well perfused, no excoriations or lesions, no
rashes appreciated

DISCHARGE PHYSICAL EXAM:
==========================
___ t 97.9 BP 131 / 86 P 58 RR 20 99 %
  
GENERAL: Pleasant, lying in bed comfortably   
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes  
 
Pertinent Results:
ADMISSION LABS:
==================
___ 11:40AM BLOOD WBC-7.8 RBC-4.16* Hgb-12.9* Hct-38.0* 
MCV-91 MCH-31.0 MCHC-33.9 RDW-12.7 RDWSD-42.5 Plt ___
___ 11:40AM BLOOD Plt ___
___ 11:40AM BLOOD Glucose-91 UreaN-14 Creat-0.8 Na-142 
K-4.4 Cl-107 HCO3-24 AnGap-11
___ 11:40AM BLOOD ALT-12 AST-19 AlkPhos-74 TotBili-0.7
___ 11:40AM BLOOD Lipase-28
___ 11:40AM BLOOD Albumin-3.8 Calcium-8.4 Phos-2.9 Mg-2.2

IMAGING:
==========

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 1:41 ___   


IMPRESSION: 
1. Extensive diverticulosis without diverticulitis. 
2. A 2.5 cm indeterminate renal lesion in the superior pole of 
the left 
kidney, though likely simple follow-up is recommended to 
confirm. 

COLONSCOPY: ___
FINAL REPORT PENDING

DISCHARGE LABS:
==================

___ 05:15AM BLOOD WBC-5.8 RBC-3.92* Hgb-12.3* Hct-35.6* 
MCV-91 MCH-31.4 MCHC-34.6 RDW-12.6 RDWSD-41.7 Plt ___
___ 05:15AM BLOOD Plt ___
___ 05:15AM BLOOD ___ PTT-26.7 ___
___ 05:15AM BLOOD Glucose-97 UreaN-10 Creat-0.8 Na-140 
K-4.1 Cl-106 HCO3-24 AnGap-10
___ 05:15AM BLOOD Calcium-8.7 Phos-3.1 Mg-2.0
 
Brief Hospital Course:
Mr ___ is a ___ h/o HTN, HLD, recent weight loss and occult 
blood positive stool here w/ 2 days of BRBPR and LLQ pain. A CT 
was performed that showed diverticulosis but no active 
inflammation. A colonoscopy was performed that showed 
diverticulosis as well. 

ACUTE ISSUES: 
=============== 
# LGIB
# Diverticulosis 
GIB most likely diverticular given diverticulosis on CT and 
colonoscopy with overlying old blood. No evidence of colitis, 
blood in the lumen or structural abnormalities. Of note, last 
Hgb in Atrius is 15.4 from ___, thus patient had had >3 
point drop since then as well as he endorses 10lb weight loss 
over the last few months. However, his hbg was stable while in 
house at 13.0. Colonoscopy performed on ___ demonstrated 
widespread diverticula with overlying old blood consistent with 
diverticular bleed. 

# Indeterminate renal lesion
Incidentally found on CT A/P. Renal is aware and the patient 
will see a nephrologist upon discharge.

# Hypotension 
Isolated BP of 80/40 after vomiting with associated diaphoresis. 
Most likely vagal, but given IVF. No other hypotension 
throughout admission. 

# Anemia 
Patient was noted to have a 3 point drop in his hemoglobin since 
___. Iron studies were ordered and PCP ___ follow as 
transitional issue.

# Concern for malnutrition 
Weight loss with elevated INR concerning for malnutrition. 

CHRONIC ISSUES: 
=============== 
# Hypertension
Holding lisinopril in setting of GIB and low pressures. 
Restarting ASA. His PCP ___ determine if/when he should restart 
his lisinopril.

# Hyperlipidemia
Restarted atorvastatin. 

# BPH
Continued Flomax at lower dose (0.4).

TRANSITIONAL ISSUES:
=======================
[ ] He was diagnosed with acute blood loss anemia secondary to 
diverticular bleed. He should have his Hgb checked at his next 
visit. He has an appointment with GI. 
[ ] Nephrology follow-up for renal lesion: see details below.
[ ] Concern for malnutrition with weight loss and elevated INR. 
[ ] Iron studies are pending at time of discharge. 

#CODE: Full (confirmed) 
#CONTACT: Son, ___, HCP: ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Tamsulosin 0.8 mg PO QHS 
3. Lisinopril 20 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Vitamin E 400 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  
3.  Tamsulosin 0.8 mg PO QHS  
4.  Vitamin E 400 UNIT PO DAILY  
5. HELD- Lisinopril 20 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until you see your Primary Care Doctor

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for bleeding in the stool.

What was done for me while I was in the hospital?  
- You had a CT that which showed diverticulosis.
- You had a colonoscopy which showed diverticulosis.

What should I do when I leave the hospital?  
- Please be sure to go to all of your medical appointments take 
all of your medicines.

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___